US08039472B2
To a solution of methyl 6-hydroxy-2-naphthoate (4.55 g, 22.5 mmol) in anhydrous acetone (60 ml) are added S-(−)-glycidol (2.0 g, 27.0 mmol) and K2CO3 (9.3 g, 67.3 mmol). The reaction mixture is heated to reflux for 3 days. The reaction mixture is filtered through Celite™ (filter material) and the filtrate is concentrated in vacuo to afford 6-((S)-2,3-Dihydroxy-propoxy)-naphthalene-2-carboxylic acid methyl ester as a white solid; 1H NMR (DMSO-d6): 3.49 (2H, t, J=6.0 Hz), 3.85-3.88 (1H, m), 3.89 (3H, s), 4.02 (1H, dd, J=9.9, 6.0 Hz), 4.16 (1H, dd, J=9.9, 4.0 Hz), 4.73 (1H, t, J=6.0 Hz), 5.04 (1H, d, J=5.2 Hz), 7.26 (1H, dd, J=9.0, 2.0 Hz), 7.41 (1H, d, J=2.0 Hz), 7.88-7.94 (2H, m), 8.04 (1H, d, J=9.0 Hz), 8.55 (1H, s).

reactant | methyl 6-hydroxy-2-naphthoate | 22.5 mmol, 4.55 g | OC=1C=C2C=CC(=CC2=CC1)C(=O)OC | C12H10O3
reactant | K2CO3 | 67.3 mmol, 9.3 g | C(=O)([O-])[O-].[K+].[K+]
reactant | acetone | 60 ml | CC(=O)C | C3H6O
product | 6-((S)-2,3-Dihydroxy-propoxy)-naphthalene-2-carboxylic acid methyl ester | COC(=O)C1=CC2=CC=C(C=C2C=C1)OC[C@H](CO)O | C15H16O5
